US03956500
PREPARATION OF 4-(ALLYLCARBAMOYLOXIMINO)-5-METHYL-1,3-OXATHIOLANE
A quantity of 3 ml of allyl isocyanate was caused to react with 3 grams of 4-oximino-5-methyl-1,3-oxathiolane dissolved in 50 ml of ether containing 2 drops of triethylamine over a period of 20 hours at room temperature. Conventional workup and recrystallization from isopropyl ether afforded 3 grams of product, mp 66.0°-67.5°, structure confirmed by spectral analysis.

reactant | allyl isocyanate | 3 ml | C(C=C)N=C=O | C4H5NO
reactant | 4-oximino-5-methyl-1,3-oxathiolane | 3 grams | N(O)=C1SCOC1C | C4H7NO2S
catalyst | ether | 50 ml | CCOCC | C4H10O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(ALLYLCARBAMOYLOXIMINO)-5-METHYL-1,3-OXATHIOLANE | 3 grams | C(C=C)NC(=O)ON=C1SCOC1C | C8H12N2O3S
